US07148218B2
a) Preparation of 1,2,4-trideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-5-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-1-(methylamino)-L-arabinitol.
A solution of 2,4-dideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-5-O-[(4-methoxyphenyl) methyl]-2,4-dimethyl-L-arabinose (2.8 g, 7.37 mmol) in THF (10 mL) is added slowly to a stirred solution of methylamine (14.7 mL, 29.5 mmol) in THF at room temperature. After being stirred at room temperature for 20 min, sodium triacetoxyborohydride (2.3 g, 11.05 mmol), followed by acetic acid (10 drops) are added at room temperature. After being stirred at room temperature overnight, the reaction mixture is diluted with EtOAc (100 mL), and washed with saturated NaHCO3 (2×30 mL), H2O (50 mL), brine (50 mL) and dried over Na2SO4. After removal of the solvent in vacuo, the residue is chromatographed on silica gel with MeOH/CH2Cl2 (1/99) to give the desired compound (1.54 g, 52.9%) as a pale viscous oil.

reactant | 2,4-dideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-5-O-[(4-methoxyphenyl) methyl]-2,4-dimethyl-L-arabinose | 7.37 mmol, 2.8 g | CC(C)(C)[Si](O[C@H]([C@H](C=O)C)[C@H](COCC1=CC=C(C=C1)OC)C)(C)C | C21H36O4Si
reactant | methylamine | 29.5 mmol, 14.7 mL | CN | CH5N
reactant | sodium triacetoxyborohydride | 11.05 mmol, 2.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | acetic acid | 10 drops | C(C)(=O)O | C2H4O2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1,2,4-trideoxy-3-O-[(1,1-dimethylethyl)dimethylsilyl]-5-O-[(4-methoxyphenyl)methyl]-2,4-dimethyl-1-(methylamino)-L-arabinitol | 1.54 g, 52.9% | CC(C)(C)[Si](O[C@H]([C@H](CNC)C)[C@H](COCC1=CC=C(C=C1)OC)C)(C)C | C22H41NO3Si
